US04666920
A mixture of 1.95 g of 1-methylamino-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 3.05 g of anhydrous piperazine and 20 ml of dry pyridine is refluxed for 6 hours. The solvent is stripped off in vacuo, the residue is taken up in 20 ml of water, the pH is brought to 7-8 with half-concentrated hydrochloric acid, with cooling, and the precipitate is filtered off with suction, washed with ice-water and dried at 100° C. in vacuo. 1.8 g of 1-methylamino-6,8-difluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of decomposition point 276°-278° C. are obtained.

reactant | 1-methylamino-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.95 g | CNN1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C11H7F3N2O3
reactant | piperazine | 3.05 g | N1CCNCC1 | C4H10N2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 1-methylamino-6,8-difluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.8 g | CNN1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O | C15H16F2N4O3
